US04892962
Ethyl 2,2-Difluoro-4-pentenoate
Analogously to Example 1, 38.5 g (0.28 mol) of 2,2-difluoro-4-pentenoic acid are esterified with ethanol. Yield: 41.3 g (89%) of a colourless oil of boiling point 55°-57° C./52 mbar, 1H-NMR (60 MHz, CDCl3): 6.1-5.0 (m, 3H); 4.30 (qa, J=7 Hz, 2H); 2.85 (d x t, J=16 Hz, 2H); 1.35 (t, J=7 Hz, 3H).

reactant | 2,2-difluoro-4-pentenoic acid | 0.28 mol, 38.5 g | FC(C(=O)O)(CC=C)F | C5H6F2O2
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 2,2-Difluoro-4-pentenoate | FC(C(=O)OCC)(CC=C)F | C7H10F2O2
